* Z:\home\grzegorz\git\MADC_ARTY\LTSpice\MADC.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N020 0 7
X§U1 N016 N019 N019 N016 N020 0 N017 N017 0 LT5400-6
X§U2 0 VDD SW_VRH N018 N017 N020 VSS ADG419
V2 VDD 0 15
V3 VSS 0 -15
X§U3 N018 AD_REF_P VDD VSS AD_REF_P ADA4177
X§U4 AD_REF_N AD_REF_N AD_REF_P AD_REF_P N015 N015 N015 N015 0 LT5400-1
X§U5 0 N015 VDD VSS AD_REF_N ADA4177
X§U6 N003 N003 AD_REF_N AD_REF_P N012 N011 N005 MEAS_VOLT 0 LT5400-2
V5 MEAS_VOLT 0 0
C1 N007 N006 0.0022µ V=50 Irms=0 Rser=0.0481 Lser=423p mfg="Würth Elektronik" pn="885012008051 WCAP-CSGP 1206" type="NP0"
D1 N009 N008 1N4148
D2 N008 N009 1N4148
R1 N009 N008 62k
C2 N009 N008 33p V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM0335C1E330JA01" type="C0G"
X§U10 0 N010 N002 VSS N004 NC_01 AD_CMP VCC RH111
V4 VCC 0 3.3
R2 VCC N001 62
R3 N001 N004 39k
R4 N001 AD_CMP 3k9
R5 N010 N009 3k9
R6 N002 0 620
V6 AD_IIN 0 3
X§U11 0 VDD AD_IIN AD_IRP AD_IRN AD_ID N005 N006 N011 N006 N012 N006 N007 N006 VSS ADG412
V7 AD_IRP 0 PULSE(3 0 0.0001 0.000001 0.000001 0.0002 0.0004 20)
V8 AD_IRN 0 PULSE(0 3 0.0001 0.000001 0.000001 0.0002 0.0004 20)
V9 AD_ID 0 PULSE(0 3 0.005 1e-9 1e-9 1 1 1)
V10 SW_VRH 0 3.3
V11 N013 0 PULSE(3 0 0 0.000001 0.000001 0.0002 0.0004)
A1 N013 N014 0 0 0 0 AD_IRP 0 AND Vhigh=5 Vlow=0 Ref=3.5
V12 N014 0 PULSE(5 0 0 0.000001 0.000001 0.0001 1 1)
X§U9 0 N008 VDD VSS N009 ADA4077-1
X§U7 0 N006 VDD VSS N007 ADA4620
R7 N008 N007 12k
.model D D
.lib C:\users\grzegorz\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0.030 uic
.lib ADA4077-1.sub
.lib ADA4177.lib
.lib ADA4620.sub
.lib ADG412.sub
.lib ADG419.sub
.lib LT5400-1.sub
.lib LT5400.lib
.lib LTC.lib
.backanno
.end
